US05489593
N-Methyl-N-(2-hydroxyethyl)indole-2-carboxamide
1,1'-carbonyldiimidazole (1.11 g) is added to a solution of indole-2-carboxylic acid (1.0 g) in tetrahydrofuran (15 ml). The mixture is stirred 1 hour at 20°-25° and 2-(methylamino)ethanol (5.0 ml) is added. The mixture is stirred 21 hours at 20°-25° and 24 hours at reflux. The mixture is concentrated under reduced pressure, diluted with methylene chloride and extracted with water and saturated sodium bicarbonate. The phases are separated and the organic phase is dried with saline and sodium sulfate and concentrated to give the crude product. Chromatography on silica gel with a methanol/chloroform gradient followed by recrystallization from chloroform/ether to give the title compound, mp 141°-142.5°.

reactant | 1,1'-carbonyldiimidazole | 1.11 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | indole-2-carboxylic acid | 1.0 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 2-(methylamino)ethanol | 5.0 ml | CNCCO | C3H9NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-(2-hydroxyethyl)indole-2-carboxamide | CN(C(=O)C=1NC2=CC=CC=C2C1)CCO | C12H14N2O2
